US05128448
To a stirring solution of trans-4-(1,1-dimethylethyl)cyclohexanepropanoic acid ethyl ester (3.58 g, 14.9 mmol) in CH3OH (198 mL) at 0° C. were added 10% KOH/MeOH (46 mL), followed by H2O (30 mL). The mixture was stirred at room temperature 5 h, then diluted with H2O (20 mL) and concentrated. The residue was diluted with H2O (20 mL) and ice chips and the mixture was acidified to pH 2 with 3N HCl. The aqueous solution was extracted with ethyl ether (4×150 mL). The combined organic extracts were washed with brine (200 mL), dried (Na2SO4) and concentrated to give crystalline trans-4-(1,1-dimethylethyl)cyclohexanepropanoic acid (3.09 g, 14.5 mmol) in 98% yield mp 105°-107° C.

reactant | trans-4-(1,1-dimethylethyl)cyclohexanepropanoic acid ethyl ester | 14.9 mmol, 3.58 g | C(C)OC(CC[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C15H28O2
reactant | KOH MeOH | 46 mL | [OH-].[K+].CO
solvent | CH3OH | 198 mL | CO | CH4O
solvent | H2O | 20 mL | O | H2O
solvent | H2O | 30 mL | O | H2O
product | trans-4-(1,1-dimethylethyl)cyclohexanepropanoic acid | 14.5 mmol, 3.09 g, 98% yield | CC(C)(C)[C@@H]1CC[C@H](CC1)CCC(=O)O | C13H24O2
